* ---------------------------------------------------------------------------
* pedal - top-level Angry Squealing Duck: duck core + Volume + true-bypass
*
* Pins:  in out vref vp vn
*   params: squeal anger quack volume   (all 0..1)   bypass (0=effect, 1=bypass)
*
* duck core -> AC-couple -> Volume pot -> output buffer -> bypass mux -> out.
* True bypass routes the raw input straight to the output when bypass=1.
* ---------------------------------------------------------------------------
.subckt pedal in out vref vp vn params: squeal=1 anger=0.6 quack=1 volume=0.7 bypass=0 muff=0
Xd   in dout vref vp vn duck squeal={squeal} anger={anger} quack={quack} muff={muff}
* AC-couple the core output and re-bias to vref
Cout dout vs   1u
Rbi  vs   vref 100k
* Volume pot: wiper = vref + volume*(vs-vref)
Rpa  vs   vw   {100k*(1-volume)+1}
Rpb  vw   vref {100k*volume+1}
* output buffer
Xob  vw   volo volo vp vn opamp
* true-bypass mux (raw input when bypass=1)
Bmux out  0    V = bypass*V(in) + (1-bypass)*V(volo)
.ends pedal
